US05153207
Ethyl 4-(diphenylmethylthio)-1-piperidinecarboxylate
A quantity of 11.6 g of ethyl chlorocarbonate was added dropwise to a solution of 6.40 g of 4-(diphenylmethylthio)-1-methylpiperidine in 30 ml of toluene, and then the resulting mixture was refluxed for 2.5 hours. After cooling, the reaction mixture was washed with hydrochloric acid and water, dried and concentrated to give 7.73 g of pale yellowish brown solid, which were recrystallized from n-hexane to give colorless needles, mp 70°~71° C.

reactant | ethyl chlorocarbonate | 11.6 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 4-(diphenylmethylthio)-1-methylpiperidine | 6.40 g | C1(=CC=CC=C1)C(SC1CCN(CC1)C)C1=CC=CC=C1 | C19H23NS
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 4-(diphenylmethylthio)-1-piperidinecarboxylate | 7.73 g | C1(=CC=CC=C1)C(SC1CCN(CC1)C(=O)OCC)C1=CC=CC=C1 | C21H25NO2S
